US07034039B2
To a solution of ethyl (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-2-propenate (1.00 g, 2 mmol) in tetrahydrofuran (10 mL) and ethanol (10 mL) was added 1N sodium hydroxide (4 mL). The obtained mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-diisopropyl ether to give (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-2-propenic acid (0.89 g, 94.7%) as crystals.

reactant | ethyl (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-2-propenate | 2 mmol, 1.00 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)/C=C/C(=O)OCC)=O)CC(C)C)CNC(=O)OC(C)(C)C | C28H40N2O6
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (E)-3-(4-butoxy-3-[[(tert-butoxycarbonyl)amino]methyl]-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl)-2-propenic acid | 0.89 g, 94.7% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)/C=C/C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C26H36N2O6
